US06620876B2
5 g of Texanol (surface auxiliary)
The composition of the polymer component of the dispersion Plextol B500 is 69.2% ethyl acrylate, 29.6% methyl methacrylate and 1.2% methacrylic acid

reactant | ethyl acrylate | C(C=C)(=O)OCC | C5H8O2
reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
reactant | methacrylic acid | C(C(=C)C)(=O)O | C4H6O2
product | Texanol | CC(C)C(C(C)(C)COC(=O)C(C)C)O | C12H24O3
